US09227978B2
2′,6-Dichloro-4-vinyl-[1,1′-biphenyl]-3-amine
A mixture of 5-bromo-4-chloro-2-vinylbenzenamine (600 mg, 2.6 mmol), 2-chlorophenylboronic acid (1.25 g, 12.9 mmol), Pd(PPh3)4 (300 mg, 0.2 6 mmol), Na2CO3 (1.4 g, 13.0 mmol) in 1,4-dioxane (20 mL) and water (5 mL) was stirred at reflux under argon for 16 h. The mixture was allowed to cool to room temperature and then concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (petroleum ether/ethyl acetate=30:1) to afford the desired product (500 mg, 73.1% yield). ESI-MS m/z: 263.1[M+H]+.

reactant | 5-bromo-4-chloro-2-vinylbenzenamine | 2.6 mmol, 600 mg | BrC=1C(=CC(=C(C1)N)C=C)Cl | C8H7BrClN
reactant | 2-chlorophenylboronic acid | 12.9 mmol, 1.25 g | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
reactant | Na2CO3 | 13.0 mmol, 1.4 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | water | 5 mL | O | H2O
catalyst | Pd(PPh3)4 | 6 mmol, 300 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2′,6-Dichloro-4-vinyl-[1,1′-biphenyl]-3-amine | 500 mg, 73.1% yield | ClC1=C(C=CC=C1)C1=CC(=C(C=C1Cl)C=C)N | C14H11Cl2N
